US05407931
2-(2-benzyloxyethoxy)-cyclohexanone
A mixture of dimeric 2-hydroxycyclohexanone (13.7 g), 2 benzyloxyethanol (20 g) and p-toluensulphonic acid (2 g) were dissolved in xylene (500 ml) in a round bottom flask fitted with a Dean Stark apparatus and reluxed for 10 hrs. The resulting solution was cooled, washed with sodium hydrogen carbonate (3×50 ml) dried and concentrated under reduced pressure. The crude oil was then purified by flash chromatography using cyclohexane/ethyl acetate 60/40 as eluant yielding 20 g of the title compound (Rf=0.5).

reactant | 2-hydroxycyclohexanone | 13.7 g | OC1C(CCCC1)=O | C6H10O2
reactant | benzyloxyethanol | 20 g | C(C1=CC=CC=C1)OC(C)O | C9H12O2
reactant | p-toluensulphonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-benzyloxyethoxy)-cyclohexanone | 20 g | C(C1=CC=CC=C1)OCCOC1C(CCCC1)=O | C15H20O3
